US06395737B1
b) 4-(2-{2-(S)-[2-(R,S)-Benzylcarbamoyl-3-(4-carbamimidoyl-phenyl)-propionylamino]-2-cyclohexyl-acetylamino}-ethyl)-piperazine-1-carboxylic Acid Tert-butyl Ester
N-ethyl-morpholine (28 μl, 0.22 mmol) and TOTU (78 mg, 0.24 mmol) was added to a solution of [2-benzylcarbamoyl-3-(4-carbamimidoyl-phenyl)-propionylamino]-(S)-cyclohexyl-acetic acid hydrochloric acid salt, (100 mg, 0.2 mmol, example 3 h, less polar diastereomer) in dimethylformamide (4 ml) at −15 to −20° C. After 30 min at that temperature 4-(2-amino-ethyl)-piperazine-1-carboxylic acid tert-butyl ester (55 mg, 0.24 mmol, step a) in dimethylformamide (1 ml) was added and stirred for 2 more hours. The reaction mixture was warmed to room temperature and stand over night. The solvent was evaporated in vacuo, stirred for 2 days with diethyl ether, and the precipitate collected by suction to give the title compound in quantitative yield. mp.: 125-128° C., MS m/z: 676 ((M+H)+, 3%), 339.0 ((M+2H)2+, 100%).

reactant | N-ethyl-morpholine | 0.22 mmol, 28 μl | C(C)N1CCOCC1 | C6H13NO
reactant | TOTU | 0.24 mmol, 78 mg | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | [2-benzylcarbamoyl-3-(4-carbamimidoyl-phenyl)-propionylamino]-(S)-cyclohexyl-acetic acid hydrochloric acid salt | Cl.C(C1=CC=CC=C1)NC(=O)C(C(=O)N[C@H](C(=O)O)C1CCCCC1)CC1=CC=C(C=C1)C(N)=N
reactant | 4-(2-amino-ethyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CCN | C11H23N3O2
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 4-(2-{2-(S)-[2-(R,S)-Benzylcarbamoyl-3-(4-carbamimidoyl-phenyl)-propionylamino]-2-cyclohexyl-acetylamino}-ethyl)-piperazine-1-carboxylic Acid Tert-butyl Ester | quantitative yield | C(C)(C)(C)OC(=O)N1CCN(CC1)CCNC([C@H](C1CCCCC1)NC(C(CC1=CC=C(C=C1)C(N)=N)C(NCC1=CC=CC=C1)=O)=O)=O | C37H53N7O5
